US07196111B2
A mixture 100 mg (0.3 mmol) of 3-(4-benzyloxy-phenyl)-3-oxo-propionic acid ethyl ester potassium salt, 86 mg (0.45 mmol) of 2-cyclohexylethyl bromide, and 17 mg (0.1 mmol) of potassium iodide (KI) in 1 mL of dimethylformamide (DMF) in a 4 mL vial was shaken in a sand bath at 80° C. overnight. The mixture was then concentrated to give a residue which was purified via reverse-phase chromatography (Gilson) to afford (after lyophilization) 85 mg (70% yield) of 2-(4-benzyloxy-benzoyl)-4-cyclohexyl-butyric acid ethyl ester as a solid as indicated by LC-MS—calcd for C26H32O2 [M++H]+: 409.23, found: 409.2.

reactant | 3-(4-benzyloxy-phenyl)-3-oxo-propionic acid ethyl ester potassium salt | 0.3 mmol, 100 mg | [K].C(C)OC(CC(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O
reactant | 2-cyclohexylethyl bromide | 0.45 mmol, 86 mg | C1(CCCCC1)CCBr | C8H15Br
reactant | potassium iodide | 0.1 mmol, 17 mg | [I-].[K+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-(4-benzyloxy-benzoyl)-4-cyclohexyl-butyric acid ethyl ester | 85 mg, 70% yield | C(C)OC(C(CCC1CCCCC1)C(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O)=O | C26H32O4
